US07645771B2
Preparation of 2-(4-fluorophenyl)-2-(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}piperidin-1-yl)-N-methylacetamide
(4-Fluorophenyl)(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}piperidin-1-yl)acetic acid (prepared from 1-((1R,5S)-8-{2-[4-(3-fluorophenyl)piperidin-4-yl]ethyl}-8-azabicyclo[3.2.1]oct-3-yl)-2-methyl-1H-benzimidazole and 4-fluorophenylboronic acid following the procedure outlined in example 412. (19 mg, 0.032 mmol) was coupled with methylamine (16 μL, 2M in THF) under promotion of HATU (12 mg, 0.032 mmol) The title compound was obtained as solid (12 mg, 60%) after purification by flash chromatography, eluting with a gradient of 0-10% methanol in ethyl acetate. 1H NMR (400 MHz, CDCl3) δ 7.66 (d, J=7.1 Hz, 1H), 7.32-7.24 (m, 4H), 7.19-7.12 (m, 2H), 7.03-6.89 (m, 6H), 4.59 (br, 1H), 3.75 (s, 1H), 3.22 (br, 2H), 2.84 (d, J=4.9 Hz, 3H), 2.55 (s, 3H), 2.52-2.47 (m, 1H), 2.40-2.09 (m, 6H), 1.93-1.87 (m, 7H), 1.78-1.61 (m, 6H). HRMS m/z (M+H)+ calcd 612.3514, obsd 612.3530.

reactant | (4-Fluorophenyl)(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}piperidin-1-yl)acetic acid | FC1=CC=C(C=C1)C(C(=O)O)N1CCC(CC1)(CCN1[C@H]2CC(C[C@@H]1CC2)N2C(=NC1=C2C=CC=C1)C)C1=CC(=CC=C1)F | C36H40F2N4O2
reactant | 1-((1R,5S)-8-{2-[4-(3-fluorophenyl)piperidin-4-yl]ethyl}-8-azabicyclo[3.2.1]oct-3-yl)-2-methyl-1H-benzimidazole | FC=1C=C(C=CC1)C1(CCNCC1)CCN1[C@H]2CC(C[C@@H]1CC2)N2C(=NC1=C2C=CC=C1)C | C28H35FN4
reactant | 4-fluorophenylboronic acid | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | methylamine | 2M, 16 μL | CN | CH5N
reactant | HATU | 0.032 mmol, 12 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
product | 2-(4-fluorophenyl)-2-(4-(3-fluorophenyl)-4-{2-[(1R,5S)-3-(2-methyl-1H-benzimidazol-1-yl)-8-azabicyclo[3.2.1]oct-8-yl]ethyl}piperidin-1-yl)-N-methylacetamide | FC1=CC=C(C=C1)C(C(=O)NC)N1CCC(CC1)(CCN1[C@H]2CC(C[C@@H]1CC2)N2C(=NC1=C2C=CC=C1)C)C1=CC(=CC=C1)F | C37H43F2N5O
